US06214877B1
step 1 8-amino octanoic acid, methyl ester
To 15 ml methanol under nitrogen, stirred, at −5° C. was added thionyl chloride (0.80 ml) dropwise. After 5 minutes, 8-aminooctanoic acid (1.592 g, 10 mmol) was added. The reaction was stirred at −5° C. for 1 h, room temperature for 45 minutes, and 40° C. for 2.25 h. After heating, the reaction mixture was concentrated. The residue was taken up in chloroform/water (40 ml/25 ml) and basified to pH 9-10 using 1N NaOH. Layers were shaken, separated and the aqueous layer washed with water (2×30 ml). The combined organics were dried over Na2SO4 and filtered. The filtrate was concentrated in vac and dried to give the product as an oily solid (1.568 g, 90%); 1H NMR (400 MHz, DMSO-d6) δ1.17-1.33 (m, 8H), 1.43-1.52 (m, 2H), 2.26 (t, J=7.5Hz, 2H), 2.44-2.49 (m, 2H), 3.55 (s, 3H); IR (film) 3475, 2930, 2850, 1730 cm−1; mass spectrum [EI], m/z 173 M+.

reactant | thionyl chloride | 0.80 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 8-aminooctanoic acid | 10 mmol, 1.592 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | methanol | 15 ml | CO | CH4O
product | 8-amino octanoic acid, methyl ester | 1.568 g, 90% | NCCCCCCCC(=O)OC | C9H19NO2
